US07807720B2
2-(4-Fluoro-3-methyl-benzyl)-hexanoic acid hydroxyamide (Compound 167266)
To a solution of 2-(4-Fluoro-3-methyl-benzyl)-hexanoic acid (tetrahydro-pyran-2-yloxy)-amide (0.0.358 g, 1.062 mmol) in 5 mL of dichloromethane, was added trifluoroacetic acid (5 mL). After stirring at room temperature for 3 h, the reaction mixture was concentrated under reduced pressure. The product was isolated by Flash chromatography (silica gel) eluting with 0-10% methanol/dichoromethane to give the title compound as an off-white solid (0.059 g, 22% yield). LC-MS: tR=7.1 min; m/z 254 (M+H)+; 1H NMR (300 MHz, CD3OD) δ 0.89 (t, J=6.60 Hz, 3H), 1.27-1.36 (m, 4H), 1.39-1.49 (m, 1H), 1.60-1.67 (m, 1H), 2.23 (d, J=1.50 Hz, 3H), 2.24-2.32 (m, 1H), 2.62 (dd, J=13.50, 5.40 Hz, 1H), 2.79 (dd, J=13.50, 9.60 Hz, 1H), 6.88 (t, J=9.60 Hz, 1H), 6.95-6.96 (m, 1H), 7.01 (t, J=7.50 Hz, 1H).

reactant | 2-(4-Fluoro-3-methyl-benzyl)-hexanoic acid (tetrahydro-pyran-2-yloxy)-amide | 1.062 mmol | O1C(CCCC1)ONC(C(CCCC)CC1=CC(=C(C=C1)F)C)=O | C19H28FNO3
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(4-Fluoro-3-methyl-benzyl)-hexanoic acid hydroxyamide | 0.059 g, 22% yield | ONC(C(CCCC)CC1=CC(=C(C=C1)F)C)=O | C14H20FNO2
